* HSPICE file created from DFFSNRNQX1.ext - technology: sky130A

.option scale=5m

.subckt DFFSNRNQX1 Q D CLK SN RN VDD GND
X0 GND D x1/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X2 m1_880_598 m1_733_745 x3/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X4 x3/li_393_182 RN x1/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.18n pd=0.106m as=16.2n ps=0.604m w=600 l=30
X5 VDD D m1_880_598 VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X6 m1_880_598 D VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X7 VDD RN m1_880_598 VDD sky130_fd_pr__pfet_01v8 ad=0.542u pd=0.0219 as=69.6n ps=2.75m w=400 l=30
X8 m1_880_598 RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X9 VDD m1_733_745 m1_880_598 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X10 m1_880_598 m1_733_745 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X11 x12/VSUBS m1_880_598 x13/a_0_0 x12/VSUBS sky130_fd_pr__nfet_01v8 ad=14.3n pd=0.716m as=78.2n ps=2.61m w=602 l=30
X14 m1_733_745 m1_1693_818 x15/li_393_182 x12/VSUBS sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X16 x15/li_393_182 CLK x13/a_0_0 x12/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X17 VDD m1_880_598 m1_733_745 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X18 m1_733_745 m1_880_598 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X19 VDD CLK m1_733_745 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X20 m1_733_745 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X21 VDD m1_1693_818 m1_733_745 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X22 m1_733_745 m1_1693_818 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X23 x24/VSUBS m1_880_598 x25/a_0_0 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=28.7n pd=1.43m as=78.2n ps=2.61m w=602 l=30
X26 m1_2804_596 m1_1693_818 x27/li_393_182 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X28 x27/li_393_182 SN x25/a_0_0 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X29 VDD m1_880_598 m1_2804_596 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X30 m1_2804_596 m1_880_598 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X31 VDD SN m1_2804_596 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X32 m1_2804_596 SN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X33 VDD m1_1693_818 m1_2804_596 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X34 m1_2804_596 m1_1693_818 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X35 x24/VSUBS m1_2804_596 x36/a_0_0 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X37 m1_1693_818 RN x38/li_393_182 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=52.7n ps=1.92m w=602 l=30
X39 x38/li_393_182 CLK x36/a_0_0 x24/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X40 VDD m1_2804_596 m1_1693_818 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X41 m1_1693_818 m1_2804_596 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X42 VDD CLK m1_1693_818 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X43 m1_1693_818 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X44 VDD RN m1_1693_818 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X45 m1_1693_818 RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X46 x47/VSUBS m1_733_745 x48/a_0_0 x47/VSUBS sky130_fd_pr__nfet_01v8 ad=14.3n pd=0.716m as=78.2n ps=2.61m w=602 l=30
X49 m1_4727_667 Q x50/li_393_182 x47/VSUBS sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X51 x50/li_393_182 RN x48/a_0_0 x47/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X52 VDD m1_733_745 m1_4727_667 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X53 m1_4727_667 m1_733_745 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X54 VDD RN m1_4727_667 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X55 m1_4727_667 RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X56 VDD Q m1_4727_667 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X57 m1_4727_667 Q VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X58 x59/VSUBS m1_4727_667 x60/a_0_0 x59/VSUBS sky130_fd_pr__nfet_01v8 ad=14.3n pd=0.716m as=78.2n ps=2.61m w=602 l=30
X61 Q m1_1693_818 x62/li_393_182 x59/VSUBS sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=52.7n ps=1.92m w=602 l=30
X63 x62/li_393_182 SN x60/a_0_0 x59/VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X64 VDD m1_4727_667 Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X65 Q m1_4727_667 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X66 VDD SN Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X67 Q SN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X68 VDD m1_1693_818 Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X69 Q m1_1693_818 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	nand3x1_pcell_0/nmos_bottom_0
* x3	nand3x1_pcell_0
* x12	li1_M1_contact_8
* x13	nand3x1_pcell_1/nmos_bottom_0
* x15	nand3x1_pcell_1
* x24	li1_M1_contact_9
* x25	nand3x1_pcell_2/nmos_bottom_0
* x27	nand3x1_pcell_2
* x36	nand3x1_pcell_3/nmos_bottom_0
* x38	nand3x1_pcell_3
* x47	li1_M1_contact_22
* x48	nand3x1_pcell_4/nmos_bottom_0
* x50	nand3x1_pcell_4
* x59	nand3x1_pcell_5/pmos2_2
* x60	nand3x1_pcell_5/nmos_bottom_0
* x62	nand3x1_pcell_5
