* HSPICE file created from DFFSNX1.ext - technology: sky130A

.option scale=5m

.subckt DFFSNX1 Q QN D CLK SN VDD GND
X0 GND x1/m1_338_781 x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X3 QN Q x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X4 VDD x1/m1_338_781 QN VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X5 QN x1/m1_338_781 VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X6 VDD Q QN VDD sky130_fd_pr__pfet_01v8 ad=0.248u pd=0.01 as=46.4n ps=1.83m w=400 l=30
X7 QN Q VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X8 GND D x9/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=64.5n pd=2.39m as=77.2n ps=2.61m w=602 l=30
X10 x1/m1_486_486 x1/m1_338_781 x9/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=-7.16n pd=-0.488m as=0 ps=0 w=602 l=30
X11 VDD D x1/m1_486_486 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X12 x1/m1_486_486 D VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X13 VDD x1/m1_338_781 x1/m1_486_486 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X14 x1/m1_486_486 x1/m1_338_781 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X15 GND x1/m1_486_486 x16/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X17 x1/m1_338_781 x1/m1_1301_705 x18/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X19 x18/li_393_182 CLK x16/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.18n pd=0.106m as=16.2n ps=0.604m w=600 l=30
X20 VDD x1/m1_486_486 x1/m1_338_781 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X21 x1/m1_338_781 x1/m1_486_486 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X22 VDD CLK x1/m1_338_781 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X23 x1/m1_338_781 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X24 VDD x1/m1_1301_705 x1/m1_338_781 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X25 x1/m1_338_781 x1/m1_1301_705 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X26 GND QN x27/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X28 Q x1/m1_1301_705 x29/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=52.7n ps=1.92m w=602 l=30
X30 x29/li_393_182 SN x27/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X31 VDD QN Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X32 Q QN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X33 VDD SN Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X34 Q SN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X35 VDD x1/m1_1301_705 Q VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X36 Q x1/m1_1301_705 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X37 GND x1/m1_486_486 x38/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X39 x1/m1_2410_489 x1/m1_1301_705 x40/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X41 x40/li_393_182 SN x38/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X42 VDD x1/m1_486_486 x1/m1_2410_489 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X43 x1/m1_2410_489 x1/m1_486_486 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X44 VDD SN x1/m1_2410_489 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X45 x1/m1_2410_489 SN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X46 VDD x1/m1_1301_705 x1/m1_2410_489 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X47 x1/m1_2410_489 x1/m1_1301_705 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X48 GND x1/m1_2410_489 x49/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X50 x1/m1_1301_705 CLK x49/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=0 ps=0 w=602 l=30
X51 VDD x1/m1_2410_489 x1/m1_1301_705 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X52 x1/m1_1301_705 x1/m1_2410_489 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X53 VDD CLK x1/m1_1301_705 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X54 x1/m1_1301_705 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	dffsnx1_pcell_0
* x2	dffsnx1_pcell_0/nand2x1_pcell_2/nmos_bottom_0
* x9	dffsnx1_pcell_0/nand2x1_pcell_5/nmos_bottom_0
* x16	dffsnx1_pcell_0/nand3x1_pcell_0/nmos_bottom_0
* x18	dffsnx1_pcell_0/nand3x1_pcell_0
* x27	dffsnx1_pcell_0/nand3x1_pcell_1/nmos_bottom_0
* x29	dffsnx1_pcell_0/nand3x1_pcell_1
* x38	dffsnx1_pcell_0/nand3x1_pcell_2/nmos_bottom_0
* x40	dffsnx1_pcell_0/nand3x1_pcell_2
* x49	dffsnx1_pcell_0/nand2x1_pcell_0/nmos_bottom_0
